Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
 Contrast Dye
 
Attending: ___
 
Chief Complaint:
Neck pain 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ yr old male pt on coumadin who presented with worsening
neck pain s/p fall 3 days ago, C spine showed a right lateral
mass fracture of C2 and a left laminar fracture of C2.
 
Past Medical History:
Afib, CAD, CHF, HTN, CRI

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
AVSS

awake, alert, oriented x3
follows commands throughout
PERRL, EOMI, ___
no drift
MAE ___
sensation intact to light touch
no long tract signs 

Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.

PHYSICAL EXAM ON DISCHARGE:
AVSS
awake, alert, oriented x3, in cervical collar
follows commands throughout
PERRL, EOMI, ___
no drift
Full motor strength to upper and lower extremitites
Sensation intact

 
Pertinent Results:
___ 08:15PM BLOOD WBC-6.3 RBC-5.07 Hgb-12.1* Hct-39.2* 
MCV-77* MCH-23.9* MCHC-31.0 RDW-15.2 Plt ___
___ 08:15PM BLOOD Neuts-79.1* Lymphs-13.9* Monos-5.5 
Eos-1.1 Baso-0.5
___ 08:15PM BLOOD Glucose-128* UreaN-16 Creat-1.1 Na-144 
K-4.0 Cl-109* HCO3-27 AnGap-12
___ 08:15PM BLOOD Calcium-8.9 Phos-2.6* Mg-2.2
___ 08:15PM BLOOD ___ PTT-38.6* ___

Head CT: unremarkable

cervical spine CT: showed a right lateral mass fracture of C2 
and
a left laminar fracture of C2. 

 
Brief Hospital Course:
The patient was admitted to neurosurgery on ___. He was 
placed in a ___ J hard collar. Pain was well controlled. The 
patient was seen by physical therapy. He was found to be 
hypotensive. The patient received 250cc fluid bolus. Repeat 
orthostatic vital signs were negative. Physical therapy 
recommended discharge to home. 

Neuro: Pt continued to deny headache, vision changes, focal 
weakness, numbness, tingling in extremities.

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Hematology:  The patient was hemodynamically stable.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.

GI/GU: The patient tolerated a regular diet. 

ID:  The patient's temperature was closely watched for signs of 
infection.

At the time of discharge on ___, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, stable neuro exam and 
pain was well controlled.  The patient was given written 
instructions concerning precautionary instructions and the 
appropriate follow-up care.  All questions were answered prior 
to discharge.  The patient agreed with hospital management and 
verbalized discharge instructions prior to discharge.

 
Medications on Admission:
amdiodarone, hytrin, carvedilol, lasix, brimonidine
pravastatin, coumadin, Enablex 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Amiodarone 200 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES HS 
4. Carvedilol 12.5 mg PO BID 
5. Docusate Sodium 100 mg PO BID 
6. Enablex *NF* (darifenacin) 7.5 mg Oral daily 
7. Furosemide 20 mg PO BID 
8. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES HS 
9. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN pain 
10. Pravastatin 40 mg PO DAILY 
11. Terazosin 10 mg PO HS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C2 right lateral mass fracture and left laminar fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•Do not smoke.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Wear your cervical collar AT ALL TIMES
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc. unless directed by your 
doctor. YOU MAY RESUME TAKING COUMADIN
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

 
Followup Instructions:
___